US07750003B2
3-Cyclopropyl-1-[4-[4-(2-cyclopropylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]urea
[4-(3-Cyclopropylureido)phenyl]boronic acid, pinacol ester (199 mg, 0.66 mmol), 2-chloro-4-(2-cyclopropylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine (190 mg, 0.53 mmol), sodium carbonate (1.320 mL, 2.64 mmol) and dichlorobis(triphenylphosphine)palladium(II) (37.1 mg, 0.05 mmol) were suspended in 18% DMF in a DME:Water:EtOH 7:3:2 solution (4 mL) and sealed into a microwave tube. The reaction was heated to 100° C. for 20 minutes in the microwave reactor and cooled to RT. The crude product was purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 7M ammonia in methanol and pure fractions were evaporated to dryness. The crude product was further purified by preparative HPLC using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents, to give the desired material as a white solid (85 mg).

reactant | [4-(3-Cyclopropylureido)phenyl]boronic acid | C1(CC1)NC(NC1=CC=C(C=C1)B(O)O)=O | C10H13BN2O3
reactant | 2-chloro-4-(2-cyclopropylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine | 0.53 mmol, 190 mg | ClC1=NC(=CC(=N1)C(C)(C)S(=O)(=O)C1CC1)N1[C@H](COCC1)C | C15H22ClN3O3S
reactant | sodium carbonate | 2.64 mmol, 1.320 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | DME Water EtOH | COCCOC.O.CCO
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.05 mmol, 37.1 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-Cyclopropyl-1-[4-[4-(2-cyclopropylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]urea | 85 mg | C1(CC1)NC(NC1=CC=C(C=C1)C1=NC(=CC(=N1)C(C)(C)S(=O)(=O)C1CC1)N1[C@H](COCC1)C)=O | C25H33N5O4S
